US04925879
A solution of dimethylsulphone (8.3 g), in dry tetrahydrofuran (150 ml) was added dropwise to a stirred ice-cold solution of butyllithium (30 ml of 2.6M solution in hexane). The mixture was stirred at room temperature for 15 minutes and then a solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (15 g) in tetrahydrofuran (25 ml) was added over 15 minutes and the resulting solution was heated under reflux for 16 hours. The solution was cooled and treated with water and the organic layer separated. The aqueous layer was extracted with ether and the ether extracts combined with the previously separated organic layer, dried and the solvents were removed by evaporation. The resulting oil crystallised, and the solid was washed with petroleum ether (b.p. 40°-60° C.) to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylsulphonylvinylamine (m.p. 125°-126°).

reactant | dimethylsulphone | 8.3 g | CS(=O)(=O)C | C2H6O2S
reactant | butyllithium | 2.6M, 30 ml | C(CCC)[Li]
reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 15 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methylsulphonylvinylamine | ClC1=CC=C(C=C1)C1(CCC1)C(=CS(=O)(=O)C)N | C13H16ClNO2S
